US09388161B2
A 100-mL round-bottom flask was charged with 1-cyclopropyl-1H-pyrazol-5-amine (0.410 g, 3.33 mmol) and N,N-dimethylformamide (10 mL). N-Iodosuccinimide (0.820 g, 3.64 mmol) was added, and the resulting solution stirred for 18 h at room temperature. The reaction mixture was poured into saturated aqueous sodium bisulfite solution (50 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:1, ethyl acetate/petroleum ether) to afford 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine (0.440 g, 48%) as light yellow oil. MS (ESI, pos. ion) m/z 250 [M+H]+.

reactant | 1-cyclopropyl-1H-pyrazol-5-amine | 3.33 mmol, 0.410 g | C1(CC1)N1N=CC=C1N | C6H9N3
reactant | N-Iodosuccinimide | 3.64 mmol, 0.820 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium bisulfite | 50 mL | S([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine | 0.440 g, 48% | C1(CC1)N1N=CC(=C1N)I | C6H8IN3
